US09216943B2
Octanophenone (50 g), dichloromethane (250 mL), and triethylsilane (69.77 g) are charged into a round bottom flask, stirred, and cooled to 0-10° C. Titanium tetrachloride (55.7 g) in dichloromethane (250 mL) is added to the reaction mixture over 30-35 minutes at temperature below 10° C. and the reaction mixture is stirred at a temperature of 25-30° C. for about 1 hour. The reaction mixture is filtered through a hyflo bed and washed with dichloromethane (100 mL). The filtrate obtained is charged into a second round bottom flask, aluminium chloride (41.6 g) is added, and the reaction mixture is cooled to 0-5° C. 3-Chloropropionyl chloride (30.47 g) in dichloromethane (50 mL) is added slowly to the reaction mixture at temperature below 5° C. and the reaction mixture is allowed to a temperature of 25-30° C. and maintained at the same temperature for about 1 hour. The reaction mixture is slowly added to water (500 mL) precooled to 0° C. and stirred. The organic layer is separated, washed with aqueous sodium bicarbonate solution (2×500 mL), water (500 mL), followed by brine solution (100 mL), dried over sodium sulphate and concentrated under reduced pressure at a temperature of about 45° C. to obtain 3-chloro-1-(4-octylphenyl)propan-1-one.

reactant | Octanophenone | 50 g | C(CCCCCCC)(=O)C1=CC=CC=C1 | C14H20O
reactant | triethylsilane | 69.77 g | C(C)[SiH](CC)CC | C6H16Si
reactant | aluminium chloride | 41.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-Chloropropionyl chloride | 30.47 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 55.7 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | water | 500 mL | O | H2O
product | 3-chloro-1-(4-octylphenyl)propan-1-one | ClCCC(=O)C1=CC=C(C=C1)CCCCCCCC | C17H25ClO
